US05883092
Synthesis of N-(2-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]-propionamide
The procedure described in Example 2 was repeated by use of 3-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]propionic acid and 2-isopropylaniline, to thereby obtain the title compound as a colorless solid.

reactant | 3-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]propionic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)N1CCN(CC1)C=O)OCCC(=O)O)OC1=C(C=CC=C1)OC | C29H35N5O8S
reactant | 2-isopropylaniline | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
product | N-(2-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]-propionamide | C(C)(C)C1=C(C=CC=C1)NC(CCOC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)N1CCN(CC1)C=O)=O | C38H46N6O7S
